US07816522B2
After adding 1.63 g of Me3O+BF4− to a solution of 4.7 g of 2-(9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide in 50 ml of acetonitrile, the mixture was stirred at room temperature. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off, and the filtrate was concentrated under reduced pressure to give 2-(9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester.

reactant | BF4− | F[B-](F)(F)F
reactant | 2-(9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide | 4.7 g | COC1=CC(=CC2=C1OCCCO2)C(C(=S)N)NC2=CC=C(C=C2)C2=NOC(=N2)C | C21H22N4O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester | CSC(C(NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC2=C(OCCCO2)C(=C1)OC)=N | C22H24N4O4S
